US06849622B2
A mixture comprising 1101 mg of N-benzyloxycarbonylpiperazine, 1131 mg of 3,4-dibutoxy-3-cyclobutene-1,2-dione and 5 ml of ethanol was stirred at room temperature for 25 hours. The reaction mixture was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (solvent: chloroform-ethyl acetate (19:1)) to obtain 1570 mg of 1-benzyloxycarbonyl-4-(4-butoxy-1,2-dioxo-3-cyclobuten-3-yl)-piperazine.

reactant | N-benzyloxycarbonylpiperazine | 1101 mg | C(C1=CC=CC=C1)OC(=O)N1CCNCC1 | C12H16N2O2
reactant | 3,4-dibutoxy-3-cyclobutene-1,2-dione | 1131 mg | C(CCC)OC=1C(C(C1OCCCC)=O)=O | C12H18O4
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-benzyloxycarbonyl-4-(4-butoxy-1,2-dioxo-3-cyclobuten-3-yl)-piperazine | 1570 mg | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C=1C(C(C1OCCCC)=O)=O | C20H24N2O5
